US07842688B2
c) Benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-hydroxypiperidine-1-carboxylate
Analogously to Method G, 0.350 g of 2,2-difluoro-3-phenoxypropyl toluene-4-sulphonate and 0.452 g of benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate are reacted. The title compound is obtained as a yellow oil. Rf=0.25 (1:1 EtOAc-heptane); Rt=5.11.

reactant | 2,2-difluoro-3-phenoxypropyl toluene-4-sulphonate | 0.350 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(COC1=CC=CC=C1)(F)F)C | C16H16F2O4S
reactant | benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.452 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
product | Benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-hydroxypiperidine-1-carboxylate | FC(COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O)(COC1=CC=CC=C1)F | C28H29F2NO5
